US05834468
4-[N-(5-Bromo-2-(phenethyl)benzyl)amino]benzoic acid
Methyl 4-[N-(5-bromo-2-(phenethyl)benzyl)amino]benzoate (0.25 g) and 2N aqueous NaOH (5 ml) were heated at reflux in a mixture of methanol (5 ml) and THF (5 ml) for 2 hours. The organic solvents were evaporated, the residue acidified with 2N HCl and extracted with ethyl acetate. The extracts were washed with brine, dried (MgSO4), filtered and evaporated. The residue was purified by crystallisation from diethyl ether and hexane to give the title compound (0.23 g; mpt 132°-134° C.).

reactant | Methyl 4-[N-(5-bromo-2-(phenethyl)benzyl)amino]benzoate | 0.25 g | BrC=1C=CC(=C(CNC2=CC=C(C(=O)OC)C=C2)C1)CCC1=CC=CC=C1 | C23H22BrNO2
reactant | NaOH | 2N, 5 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-[N-(5-Bromo-2-(phenethyl)benzyl)amino]benzoic acid | 0.23 g | BrC=1C=CC(=C(CNC2=CC=C(C(=O)O)C=C2)C1)CCC1=CC=CC=C1 | C22H20BrNO2
